US05051413
8.2 g of E-5-bromo-2-formylamino-4-methyl-3-pentenoic acid ethyl ester and 19 ml of tris-(2-chloroethyl)-phosphite are stirred at a bath temperature of 70° for 20 hours. The resulting mixture is chromatographed on silica gel using ethyl acetate and ethyl acetate/isopropanol (7:1) as eluant, and the product is crystallised from ethyl acetate/diethyl ether. In this manner there is obtained E-2-formylamino-4-methyl-5-di(2-chloroethyl)phosphono-3-pentenoic acid ethyl ester, m.p. 47°-49°.

reactant | E-5-bromo-2-formylamino-4-methyl-3-pentenoic acid ethyl ester | 8.2 g | C(C)OC(C(\C=C(\CBr)/C)NC=O)=O | C9H14BrNO3
reactant | tris-(2-chloroethyl)-phosphite | 19 ml | ClCCOP(OCCCl)OCCCl | C6H12Cl3O3P
product | E-2-formylamino-4-methyl-5-di(2-chloroethyl)phosphono-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C(\CP(=O)(OCCCl)OCCCl)/C)NC=O)=O | C13H22Cl2NO6P
